US09388142B2
A suspension of 2-amino-5-fluorobenzamide (154 mg, 1.0 mmol), 4-tert-butylbenzaldehyde (162 mg, 1.0 mmol) and sodium disulfite (194 mg, 1.02 mmol) in N,N-dimethylacetamide (2 ml) is heated to 150° C. and stirred at this temperature for 3 hours. The reaction mixture is allowed to reach room temperature and poured into ice water. The resulting precipitate is collected by filtration, washed with water and dried under vacuum to afford 2-(4-tert-butyl-phenyl)-6-fluoro-3H-quinazolin-4-one as light grey solid;

reactant | 2-amino-5-fluorobenzamide | 1.0 mmol, 154 mg | NC1=C(C(=O)N)C=C(C=C1)F | C7H7FN2O
reactant | 4-tert-butylbenzaldehyde | 1.0 mmol, 162 mg | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | sodium disulfite | 1.02 mmol, 194 mg | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
product | 2-(4-tert-butyl-phenyl)-6-fluoro-3H-quinazolin-4-one | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1)=O)F | C18H17FN2O
